US07585885B2
(S)-6-sec-Butylaminopyridine-2,4-dicarboxylic acid 2-ethyl ester
Dissolve (S)-6-sec-butylaminopyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester (990 mg, 3.5 mmol) in THF (35 mL) and dropwise add 1 N lithium hydroxide solution (3.5 mL). Stir at room temperature for 2 h and acidify the mixture to about pH=4 by 5 N HCl and concentrate to near dryness. Dilute with ethyl acetate (20 mL) and wash the organic layer with saturated sodium chloride solution, dry (magnesium sulfate) and concentrate to give a 2:1 ratio of crude title compound to starting material which is used in the next step without further purification.

reactant | (S)-6-sec-butylaminopyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester | 3.5 mmol, 990 mg | COC(=O)C1=CC(=NC(=C1)N[C@@H](C)CC)C(=O)OCC | C14H20N2O4
reactant | HCl | 5 N | Cl | ClH
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | lithium hydroxide | 1 N, 3.5 mL | [OH-].[Li+]
product | (S)-6-sec-Butylaminopyridine-2,4-dicarboxylic acid 2-ethyl ester | CCOC(=O)C1=NC(=CC(=C1)C(=O)O)N[C@@H](C)CC | C13H18N2O4
